US07253286B2
4-(6-(4-Benzyloxyphenyl)-7-(trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-2-fluorophenylamine
After adding 400 mg of iron powder, 1 g of ammonium chloride, 20 ml of ethanol, 10 ml of tetrahydrofuran and 10 ml of water to 470 mg of 6-(4-benzyloxyphenyl)-4-(3-fluoro-4-nitrophenoxy)-7-(trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine, the mixture was stirred at 85° C. for 3 hours. After returning it to room temperature, it was filtered with celite, and ethyl acetate and water were added to the filtrate for liquid separation and extraction. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, filtered with plug cotton, concentrated and subjected to NH silica gel column chromatography (hexane-ethyl acetate) to obtain 263 mg of the title compound.

reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 6-(4-benzyloxyphenyl)-4-(3-fluoro-4-nitrophenoxy)-7-(trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine | 470 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC2=CC(=C(C=C2)[N+](=O)[O-])F)N1COCC[Si](C)(C)C | C31H31FN4O5Si
catalyst | iron | 400 mg | [Fe] | Fe
solvent | water | 10 ml | O | H2O
product | 4-(6-(4-Benzyloxyphenyl)-7-(trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-2-fluorophenylamine | 263 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC2=CC(=C(C=C2)N)F)N1COCC[Si](C)(C)C | C31H33FN4O3Si
